data/mechanisms/records/IMS8-EQ8.45a.json
{"mechanism_id": "IMS8-EQ8.45a", "species": [{"species_id": "neopentyl_alcohol_radical_cation", "mapped_smiles": "[CH3:4][C:1]([CH3:5])([CH3:6])[CH2:2][OH+:3]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "neopentyl_cation", "mapped_smiles": "[CH3:4][C:1]([CH3:5])([CH3:6])[CH2+:2]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "hydroxyl_radical", "mapped_smiles": "[OH:3]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["neopentyl_alcohol_radical_cation"]}, {"state_id": "state_products", "species_ids": ["neopentyl_cation", "hydroxyl_radical"]}], "steps": [{"step_id": "step_inductive_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 175, "equation": "8.45", "figure": null, "panel": null, "section": "8.8"}, "confidence": 0.8, "curator_note": "Path labeled 'i' (inductive / charge-site cleavage) of Eq 8.45. Book draws 0 electron-pushing arcs: the scheme shows only three labeled reaction arrows (i, alpha, sigma) from the molecular ion to competing products, no fishhooks. The single move <1> -- heterolytic cleavage of the C2-O3 bond with both bonding electrons going to oxygen -- is an implicit move required for electron balance (not drawn on the page). Precursor is the n-ionized molecular ion of neopentyl alcohol (2,2-dimethyl-1-propanol) with charge and odd electron localized on O per the book's (CH3)3C-CH2-O(+.)H drawing; the C-O bonding pair migrates to O, leaving the (CH3)3CCH2+ cation and the .OH radical (oxygen keeps its pre-existing odd electron, so its non-bonding population rises by 2 into a lone pair while the radical count is unchanged -- the soft lone-pair note is expected). m/z 71.0855 is the curator-computed monoisotopic value of (CH3)3CCH2+; the page prints the 1% abundance but no m/z."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 88.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_71", "species_id": "neopentyl_cation", "step_id": "step_inductive_cleavage", "observed_mz": 71.0855, "relative_intensity": 0.01, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed"}}
